Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia/melena
 
Major Surgical or Invasive Procedure:
___ EGD

 
History of Present Illness:
___ ___ speaking with reported history of latent TB on 
?INH
since ___ who presents via PCP referral for melena and drop in
Hgb.  Patient states that on ___ he had abd pain and
subsequently developed dark stools.  Presented to PCP today who
noted drop in Hgb to 9 from previous value of 14 and so sent to
ED.
ED.

In the ED, initial VS were: 98.6 80 130/87 18 100% RA  

Exam notable for: 
Guaiac + stool
 
Labs showed:  
Hgb 9.2 with MCV 91
Repeat Hgb 8.7
WBC 10.5
Lactate 1.3
Chem-7, LFT's normal
 
Past Medical History:
Latent TB

 
Social History:
___
Family History:
No FH of GI cancers
 
Physical Exam:
Admission Exam:
==================
VS:  98.6 76 ___ 99% 
GENERAL: NAD; pt has NGT with bright red output  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

Discharge Exam:
VITALS: 98.6 O ___ 18 97 RA 
GENERAL: Lying in bed comfortably, NG placed
HEENT: EOMI, PERRLA, conjuctival pallor 
CV: RRR. no r/m/g
RESP: CTAB
GI: +BS, soft, NTND
MSK: No ___ edema, warm, well perfused
neuro: Moving all extremities simultaneously

 
Pertinent Results:
Admission labs:

___ 05:50PM BLOOD WBC-10.5* RBC-3.01*# Hgb-9.2*# Hct-27.4*# 
MCV-91 MCH-30.6 MCHC-33.6 RDW-12.1 RDWSD-39.7 Plt ___
___ 05:50PM BLOOD Plt ___
___ 05:50PM BLOOD Glucose-144* UreaN-18 Creat-0.9 Na-140 
K-3.9 Cl-102 HCO3-26 AnGap-12
___ 05:50PM BLOOD ALT-12 AST-14 AlkPhos-62 TotBili-<0.2
___ 04:50AM BLOOD Calcium-8.2* Phos-3.5 Mg-2.1
___ 08:13PM BLOOD Lactate-1.3

Discharge labs:

___ 04:50AM BLOOD WBC-14.3* RBC-2.67* Hgb-8.2* Hct-24.5* 
MCV-92 MCH-30.7 MCHC-33.5 RDW-12.9 RDWSD-41.8 Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-103* UreaN-10 Creat-0.8 Na-144 
K-3.8 Cl-105 HCO3-28 AnGap-11
___ 04:50AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.2

Imaging:
___ CXR:
1. Nasogastric tube tip is within the stomach, but the side port 
is in the
distal esophagus.  Would recommend advancement of the 
nasogastric tube by
approximately 9 cm for the side hole to be within the stomach.
2. Mild patchy bibasilar opacities, likely atelectasis.

Procedures:
___ EGD:
Impression:
At 36cm an approximately 1.2cm clean based ulceration was 
encountered in the esophagus. There was no active bleeding 
noted. There were polypoid, erythematous nodular abnormalities, 
some with white fibrinous portions, noted directly next to the 
ulceration as well as more distally in the esophagus. They were 
not able to be removed with thorough washing. This could 
potentially be secondary to NG placement trauma.
Erythematous in the antrum
No old or fresh blood was seen throughout.
Duodenal ulcer
Otherwise normal EGD to third part of the duodenum
- no biopsies were taken in the setting of 
recent active bleeding

Recommendations:
- please continue high dose PPI (IV while NPO, can be advanced 
when he tolerates a diet)
- OK to advance diet to clears if counts are stable
- please sent stool H. Pylori
- recommend repeat EGD for re-evaluation of after high dose BID 
PPI therapy in ___ weeks.
 
Brief Hospital Course:
Patient Summary:
======================
___ with history of latent TB presenting with melena since ___ 
and found to have acute drop in Hgb from 14 to 9 on admission. 
Started on IV PPI and NG placed with significant output of 
bright red blood. Patient stopped having melena or NG output 
overnight and had EGD showing duodenal ulcer and esophageal 
ulcer (thought to be from NG placement). No biopsies taken 
because of recent active bleed. Continued on PPI BID with plan 
for repeat EGD in ___ weeks. 

TRANSITIONAL ISSUES: 
- New Meds: Omeprazole 40mg BID
- Stopped/Held Meds: None
- Changed Meds: Omeprazole 20mg daily to omeprazole 40 mg bid
- Post-Discharge Follow-up Labs Needed: 
- Incidental Findings: Esophageal and duodenal ulcer

[] Continue Omeprazole 40mg BID for ___ weeks and return for 
repeat EGD
[] Patient did not have bowel movement prior to discharge. 
Please check stool H. pylori antigen at next visit.
[] Ensure taking B6 in addition to INH (we prescribed it)
[] GI recommended repeat EGD in ___ weeks

#CODE: Full (confirmed) 
#CONTACT: ___ (Uncle) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isoniazid ___ mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Pyridoxine 50 mg PO DAILY 
RX *pyridoxine (vitamin B6) 50 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*3 
2.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice daily Disp #*60 
Capsule Refills:*0 
3.  Isoniazid ___ mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Upper gastrointestinal bleeding
Duodenal ulcer

Secondary diagnosis
Latent Tuberculosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- you were having bleeding in your intestines and had low red 
blood cell count

WHAT HAPPENED IN THE HOSPITAL?
- You were started on anti-acid medications to help clot off the 
bleed
- you had an endocscopy to find the source of the bleeding
- You had a tube placed in your stomach to suction out the blood

WHAT SHOULD YOU DO AT HOME?
- You should continue taking the anti-acid medication twice 
daily as below
- you need a repeat endoscopy to re-evaluate the place that was 
bleeding before in ___ weeks
- You need to come back to the ER if you notice any blood in 
your stool, black stools, vomitting blood, or lightheadedness. 
- Continue taking Isoniazide for full 9 month course in addition 
to the supplemental vitamin as below  

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___